US05599852
LIQUID POLYMERS OF ε-CAPROLACTONE/L-LACTIDE AT 50/50 INITIAL MOLE COMPOSITION
A flame dried, 250 mL, round bottom single neck flask was charged with 57.1 grams (0.50 mole) of ε-caprolactone, 72.1 grams (0.50 mole) of L-lactide, 4.00 mL (55 mmol) of distilled glycerol, and 0.10 mL (34 μmol) of a 0.33M stannous octoate solution in toluene. The flask was fitted with a flame dried mechanical stirrer. The reactor was purged with nitrogen three times before venting with nitrogen. The reaction mixture was heated to 160° C. and maintained at this temperature for about 18-20 hours. The copolymer was dried under vacuum (0.1 mm Hg) at 110° C. for about 16 hours to remove any unreacted monomer. The copolymer had an inherent viscosity of 0.14 dL/g in hexafluoroisoproponal (HFIP) at 25° C. The copolymer was a liquid at room temperature. The molar ratio of PCL/PLA was found to be 53.7/46.3 by proton NMR.

reactant | ε-caprolactone | 0.50 mole, 57.1 grams | C1(CCCCCO1)=O | C6H10O2
reactant | L-lactide | 0.50 mole, 72.1 grams | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | glycerol | 55 mmol, 4.00 mL | OCC(O)CO | C3H8O3
reactant | stannous octoate | 0.33M | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ε-CAPROLACTONE L-LACTIDE | C1(CCCCCO1)=O.C[C@H]1C(=O)O[C@H](C(=O)O1)C | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
